US07704996B2
Step 66.1: 4-Amino-4-benzyl-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-benzyl-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (0.65 mmol) in 1,4-dioxane (2 mL) are added Et3N (0.71 mmol) and DPPA (0.71 mmol) at room temperature. After warming to 100° C. and stirring for 2 h, the reaction mixture is diluted with AcOEt. The organic layer is washed with sat. aq. NaHCO3 and brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue is dissolved in THF (4 mL) and 6N aq. NaOH (0.22 mL) is added at room temperature. After stirring for 4 h, the reaction mixture is diluted with CH2Cl2, washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue is purified by silica gel column chromatography to give the title compound; 1H NMR (CDCl3), δ: 1.18 (2H, bs), 1.28-1.37 (2H, m), 1.46 (9H, s), 1.51-1.64 (2H, m), 2.66 (2H, s), 3.20 (2H, dd), 3.74 (2H, bd), 7.13-7.19 (2H, m), 7.21-7.34 (3H, m).

reactant | 4-benzyl-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 0.65 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CC1=CC=CC=C1 | C18H25NO4
reactant | Et3N | 0.71 mmol | CCN(CC)CC | C6H15N
reactant | DPPA | 0.71 mmol | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-Amino-4-benzyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=CC=CC=C1)N | C17H26N2O2
